US04921865
Step a: Preparation of 2-heptadecyl 2-methyl 4-hydroxymethyl 1,3-dioxolan. a
In an appropriate reactor were poured 11.1 g (40 mmol) of 2-nonadecanone, 6 g--which represents an excess with regard to the stoichiometric proportions--of twice distilled glycerol and 0.6 g of p-toluenesulphonic acid dissolved in 120 ml of dry toluene. The reaction mixture was refluxed under stirring for 12 hours and the resulting water was eliminated using a Dean Stark apparatus. After cooling, the organic phase was washed with 30 ml of 5% by weight aqueous solution of potassium hydroxide and then three times with the minimum amount of water. After drying over anhydrous sodium sulphate, the solvent was removed under reduced pressure. The residue was then purified by chromatography on a silica gel column. There were successively eluted the fraction of the ketone not involved in the reaction (petroleum ether : diethyl ether, 95:5 by volume), and then the dioxolan a (petroleum ether/diethyl ether 85:15 by volume). the dioxolan is a viscous product, partially crystallized.

reactant | 2-nonadecanone | 40 mmol, 11.1 g | CC(CCCCCCCCCCCCCCCCC)=O | C19H38O
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | p-toluenesulphonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dioxolan | O1COCC1 | C3H6O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-heptadecyl 2-methyl 4-hydroxymethyl 1,3-dioxolan | C(CCCCCCCCCCCCCCCC)C1(OCC(O1)CO)C | C22H44O3
